US06403639B1
Under argon atmosphere, 432 mg of 5-acetoxy-2,2-diethyl-4,6-diisopropyl-2,3-dihydrobenzofuran was dissolved in 3 ml of anhydrous tetrahydrofuran, a solution of 129 mg of lithium aluminium hydride in 2 ml of anhydrous tetrahydrofuran was added, and the solution was stirred at room temperature for 6 hours. After the reaction was quenched with water, the reaction solution was combined with 10% hydrochloric acid and extracted with ethyl acetate. The organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 1% ethyl acetate) to give 376 mg of 2,2-diethyl-5-hydroxy-4,6-diisopropyl-2,3-dihydrobenzofuran as a light brown solid (yield 100%).

reactant | 5-acetoxy-2,2-diethyl-4,6-diisopropyl-2,3-dihydrobenzofuran | 432 mg | C(C)(=O)OC=1C(=CC2=C(CC(O2)(CC)CC)C1C(C)C)C(C)C | C20H30O3
reactant | lithium aluminium hydride | 129 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2,2-diethyl-5-hydroxy-4,6-diisopropyl-2,3-dihydrobenzofuran | 376 mg, yield 100% | C(C)C1(OC2=C(C1)C(=C(C(=C2)C(C)C)O)C(C)C)CC | C18H28O2
